US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-fluorobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2-fluorobenzoyl chloride in a similar manner as described above to give a yellow solid (57% yield). 1H-NMR (CDCl3): δ 8.91 (s, 1H), 8.15 (m, 1H), 7.62 (m, 1H), 7.50 (m, 1H), 7.30 (m, 1H), 7.23 (dd, 1H), 7.18 (d, 1H), 7.12 (m, 2H), 5.35 (m, 1H), 2.72 (m, 2H), 2.31 (m, 1H), 1.98 (m, 3H); MS m/z 387 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-fluorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1)F)=O | C19H16BrFN2O
